US04749403
4-Benzyloxy-1-methyl-3-[3-methyl-4-(1,1,2,2-tetrafluoroethoxy)phenyl]imidazolidin-2-one
16.1 g (0.05 mol) of 4-hydroxy-1-methyl-3-[3-methyl-4-(1,1,2,2-tetrafluoroethoxy)phenyl]imidazolidin-2-one are dissolved in 150 ml of acetonitrile, and 1.50 g of sodium hydride (80% strength in white oil) are added at 5° C. The mixture is stirred for 10 minutes at 5° C., and 6.40 g (0.05 mol) of benzyl chloride are subsequently added dropwise at 5° C. The mixture is stirred for 5 hours at 50°and poured into 400 ml of ice-water. The mixture is extracted twice with 100 ml of methylene chloride in each case, and the combined methylene chloride phases are washed with 100 ml of water and dried over sodium sulfate. After removing the solvent by distillation, 19.4 g (94% of theory) of 4-benzyloxy-1-methyl-3-[3-methyl-4-(1,1,2,2-tetrafluoroethoxy)phenyl]imidazolidin-2-one are obtained in the form of a pale yellow oil.

reactant | 4-hydroxy-1-methyl-3-[3-methyl-4-(1,1,2,2-tetrafluoroethoxy)phenyl]imidazolidin-2-one | 0.05 mol, 16.1 g | OC1N(C(N(C1)C)=O)C1=CC(=C(C=C1)OC(C(F)F)(F)F)C | C13H14F4N2O3
reactant | sodium hydride | 1.50 g | [H-].[Na+]
reactant | benzyl chloride | 0.05 mol, 6.40 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 4-Benzyloxy-1-methyl-3-[3-methyl-4-(1,1,2,2-tetrafluoroethoxy)phenyl]imidazolidin-2-one | C(C1=CC=CC=C1)OC1N(C(N(C1)C)=O)C1=CC(=C(C=C1)OC(C(F)F)(F)F)C | C20H20F4N2O3
